US07396844B1
10.67 g (57.3 mmol) of t-butyl piperazine-1-carboxylate was dissolved in 180 ml of dimethylformamide. 10 ml (57.3 mmol) of diisopropylethylamine and a solution of 17.3 g (57.3 mmol) of 4-iodobenzenesulfonyl chloride in 20 ml of dimethylformamide were added to the solution at 0° C., and the resultant mixture was stirred for 5 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, crude t-butyl 4-(4-iodobenzenesulfonyl)piperazine-1-carboxylate was obtained. This crude product was dissolved in 150 ml of dimethylformamide. 750 mg (3.5 mmol) of palladium (II) acetate, 55 ml (1.39 mol) of methanol and 19 ml (139 mmol) of triethylamine were added to the solution, and the resultant mixture was stirred under heating at 90° C. in the presence of carbon monoxide for 23 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude title compound was obtained. This product was then purified by the silica gel column chromatography.

reactant | t-butyl piperazine-1-carboxylate | 57.3 mmol, 10.67 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | diisopropylethylamine | 57.3 mmol, 10 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-iodobenzenesulfonyl chloride | 57.3 mmol, 17.3 g | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | t-butyl 4-(4-iodobenzenesulfonyl)piperazine-1-carboxylate | IC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21IN2O4S
